US09406894B2
First, 10 g of ethyl benzimidate hydrochloride, 150 mL of toluene, and 11 g of triethylamine (Et3N) were put into a 500-mL three-neck flask and the mixture was stirred at room temperature for 10 minutes. After a predetermined time elapsed, with a 50-mL dropping funnel, a mixed solution of 3.8 g of acetyl chloride and 30 mL of toluene was added dropwise to this mixture, and the mixture was stirred at room temperature for 24 hours. The obtained mixture was suction-filtered, and the obtained filtrate was concentrated to give N-(1-ethoxybenzylidene)acetamide (a yellow oily substance, 100% yield). The synthesis scheme of Step 1 is shown in (B-1) below.

reactant | ethyl benzimidate hydrochloride | 10 g | Cl.C(C1=CC=CC=C1)(OCC)=N
reactant | triethylamine | 11 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.8 g | C(C)(=O)Cl | C2H3ClO
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1-ethoxybenzylidene)acetamide | 100% yield | C(C)OC1(C=NC(C)=O)CC=CC=C1 | C11H15NO2
